US07601850B2
C. {4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanol
To a 0° C. solution of 4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-benzoic acid methyl ester (6.7 g, 21.2 mmol) in THF (100 ml) is added 1M LiA1H4/THF (32 ml, 32 mmol). After stirring at RT for 2 h, the reaction is quenched with water (1 ml) followed by 5N NaOH solution (1 ml) and water (3 ml). The mixture is filtered and the filtrate is concentrated to give the title compound as a clear oil (6 g, 98%).

reactant | 4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-benzoic acid methyl ester | 21.2 mmol, 6.7 g | COC(C1=C(C=C(C=C1)C(CC)(C=1SC=C(C1)C)CC)C)=O | C19H24O2S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 32 mmol, 32 ml | C1CCOC1 | C4H8O
product | {4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanol | 6 g, 98% | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)CO)C | C18H24OS
